US07582775B2
D. Trifluoro-methanesulfonic acid 2-{1-ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophen-6-yl ester
To a solution of 2-{1-Ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}benzo[b]thiophen-6-ol (0.67 g, 1.57 mmol) and dichloromethane (5 mL) is added NEt3 (0.44 mL, 3.14 mmol). The solution is cooled to 0° C., and triflouromethane-sulfonic anhydride (0.28 mL, 1.65 mmol) is added. The solution is warmed to RT, diluted with diethyl ether (30 mL), washed with saturated NaHCO3 (20 mL), dried with MgSO4, filtered, and concentrated to give the title compound (0.22 g, 0.40 mmol, 85%). 1H NMR (CDCl3), δ 0.75 (t, J=7.3 Hz, 6H), 0.95 (t, J=7.5 Hz, 6H), 1.68 (q, J=14.8, 7.6 Hz, 4H), 2.14-2.27 (m, 7H), 3.82 (s, 2H), 6.74 (d, J=8.3 Hz, 1H), 7.03 (d, J=2.1 Hz, 1H), 7.08 (dd, J=8.7, 2.5 Hz, 1H), 7.13(dd, J=8.7, 2.9 Hz, 1H), 7.14 (s, 1H), 7.58 (d, J=2.1 Hz, 1H), 7.70 (d, J=8.3 Hz, 1H). LC/MS (m/z): calcd. for C27H34F3O5S2 (M+H)+; 559.2; found: 576.1.

reactant | 2-{1-Ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}benzo[b]thiophen-6-ol | 1.57 mmol, 0.67 g | C(C)C(CC)(C1=CC(=C(C=C1)OCC(CC)(O)CC)C)C1=CC2=C(S1)C=C(C=C2)O | C26H34O3S
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
reactant | NEt3 | 3.14 mmol, 0.44 mL | CCN(CC)CC | C6H15N
reactant | triflouromethane-sulfonic anhydride | 1.65 mmol, 0.28 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | Trifluoro-methanesulfonic acid 2-{1-ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophen-6-yl ester | 0.40 mmol, 0.22 g, 85% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(CC)(O)CC)C)C1=CC2=C(S1)C=C(C=C2)OS(=O)(=O)C(F)(F)F | C27H33F3O5S2
